US06420424B1
(S)-Ethyl-2-amino-3-(4-methanesulfonylaminophenyl)propionate hydrochloride
(S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-methanesulfonylaminophenyl)propionate (3.00 g, 7.76 mmol) was dissolved in a solution of 4 N HCl in dioxane (10 mL). The bright orange solution was allowed to stir at room temperature overnight. The solvent was then evaporated and the residue azeotroped with toluene, furnishing the product as a bright peach solid (2.5 g, 100%).

reactant | (S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-methanesulfonylaminophenyl)propionate | 7.76 mmol, 3.00 g | C(C)OC([C@H](CC1=CC=C(C=C1)NS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C17H26N2O6S
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-Ethyl-2-amino-3-(4-methanesulfonylaminophenyl)propionate hydrochloride | 2.5 g, 100% | Cl.C(C)OC([C@H](CC1=CC=C(C=C1)NS(=O)(=O)C)N)=O | InChI=1S/C12H18N2O4S.ClH/c1-3-18-12(15)11(13)8-9-4-6-10(7-5-9)14-19(2,16)17;/h4-7,11,14H,3,8,13H2,1-2H3;1H/t11-;/m0./s1
